US07622495B2
2-(2-aminobenzoyl)-N-2-nitrophenylethylamine
2 ml of 2-nitro-fluorobenzene were reacted in 20 ml DMF, at room temperature, with 5 g of kynuramine and 3 g of potassium carbonate, to yield the desired product; reaction time was 2 h. The reaction mixture was placed in 250 ml of water and stirred. It was extracted into ethylacetate (2×100 ml), ethylacetate layer was washed twice with water (50 ml), dried with sodium sulphate and the solvent was distilled off. The crude material was purified by column chromatography run with ethylacetate and hexane mixture (1:9).

reactant | 2-nitro-fluorobenzene | 2 ml | [N+](=O)([O-])C1=C(C=CC=C1)F | C6H4FNO2
reactant | kynuramine | 5 g | C=1C=CC(=C(C1)C(=O)CCN)N | C9H12N2O
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(2-aminobenzoyl)-N-2-nitrophenylethylamine | NC1=C(C(=O)C(CN)C2=C(C=CC=C2)[N+](=O)[O-])C=CC=C1 | C15H15N3O3
